OpenCircuit factory test: PN2222A saturation
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pub/Collateral/PN2222A-D.PDF
* Revision: Rev. 1.1.0, July 2014
* Fit: native ngspice-46 transport fit; deterministic RB/RC saturation-bound refit
.model OC_ONSEMI_PN2222A NPN(IS=2.8962197304e-14 NF=1.0000000000e0 BF=1.9999999999e3 IKF=6.8919904103e-1 ISE=3.5557082141e-14 NE=1.2072447758e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=3.5000000000e0 RE=1.2962957766e-4 RC=1.6500000000e0 CJE=2.9590349587e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=1.9261254218e-11 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=4.3597672589e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
ICS1 0 cs1 DC 1.5000000000e-1
IBS1 0 bs1 DC 1.5000000000e-2
QS1 cs1 bs1 0 OC_ONSEMI_PN2222A
ICS2 0 cs2 DC 5.0000000000e-1
IBS2 0 bs2 DC 5.0000000000e-2
QS2 cs2 bs2 0 OC_ONSEMI_PN2222A
.op
.end
